Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Compazine / Cipro
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo G8P2 presents to ED after evaluation of 2 days of LLQ
pain.  Patient reports the pain as sharp intermittent pain.  She
denies any aggrevating symptoms.  She notes intermittent nausea
and vomiting as well.  She denies any fevers, chills, dysuria,
vaginal discharge.  Patient went to ___ yesterday
where she reports that she had a pelvic u/s which was negative
for any pathology.  She was discharged to home with PO percocet
and Bactrim for UTI and instructions to f/u in the office.  She
reports that she took one percocet which made her nauseated and
caused her to vomit.  She denies any sick contacts or change in
bowel habits.  She went to her PCP today for persistent pain. 
PCP instructed pt to go to ED.

Of note patient had ESSURE placed in ___.  In ___ pt had
increased pain on right and underwent HSC removal of R essure. 
f/u HSG on ___ demonstrated occulsion of both tubes.  She
reports that her pain today is the same as the pain she felt at
that time when her essure was removed.  

Patient was also seen by her ___ for unprotected intercourse. 

STI panel checked at the time was neg per pt but she did have 
+UA
for UTI and was started on cipro which she reports she only took
one dose of because it made her nauseated.  

 
Past Medical History:
OBHx: c/sx2, TABx4, SABx2
GYNHx:TABx4, SABx2, pt reports a remote h/o abnl paps.  She
denies any h/o stis, uterine fibroids or cysts
PMHx: Anxiety/depression
PSHx: open appy, knee surgery, dx lsc for endo, HSC (as 
described
in HPI)

 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
On Admission:
O: 97.2 86 114/76 16 100% RA 
NAD
RRR
CTAB
ABD: soft obese tender to deep palpation on LLQ, no R/G
No CVA tenderness
EXT: NT 

Bi-Manual Exam: tender to palpation in L adnexa, no masses
palpable, no CMT

On Discharge:
VSS, afeb
NAD
RRR
CTAB
Abd soft, NDNT
Ext without edema, no calf tenderness

 
Pertinent Results:
Labs:
___ 07:29PM URINE UCG-NEG
___ 07:29PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 07:29PM URINE Color-Yellow Appear-Clear Sp ___
___ 07:58PM BLOOD WBC-8.1 RBC-4.22 Hgb-13.0 Hct-37.9 MCV-90 
MCH-30.7 MCHC-34.2 RDW-12.4 Plt ___
___ 07:58PM BLOOD Neuts-64.9 ___ Monos-3.7 Eos-1.6 
Baso-0.4
___ 07:58PM BLOOD Glucose-98 UreaN-11 Creat-0.7 Na-140 
K-4.0 Cl-104 HCO3-27 AnGap-13
___ 07:58PM BLOOD ALT-20 AST-26 LD(LDH)-159 AlkPhos-64 
TotBili-0.4
___ 07:58PM BLOOD Lipase-27

Imaging:
Pelvic U/S ___:
IMPRESSION: 
1. Ultrasound provides limited evaluation of position of Essure 
device, 
proximal portion is seen extending from the left uterine fundus. 
Please 
compare with prior imaging, and consider gynecologic consult for 
direct 
assessment. Hysterosalingogram may be considered. This was 
discussed with 
Dr. ___ on ___ at 11:50 p.m.  
2. Normal ovaries, with trace fluid surrounding left ovary, and 
no evidence 
of torsion. 

CT ___:
IMPRESSION: While proximal aspect of left Essure device extends 
into the left 
uterine fundus, its distal course is not definitely located 
along expected 
course of fallopian tube, raising concern for extension beyond. 
No adjacent 
stranding or fluid to suggest hyperacute fallopian tube 
perforation, but these 
may not be seen in more longstanding process. Per patient, she 
had CT scan at 
___ at time of prior displacement of right 
Essure device.  
Recommend comparison with prior CT scan to assess interval 
change in position 
and gynecologic consultation.  

 
Brief Hospital Course:
Ms. ___ is a ___ G8P2 with left essure device in place who 
presented with left lower quadrant abdominal pain, nausea and 
vomiting which she describes as similar symptoms to those she 
felt prior to her right essure device being removed in ___.
Ms. ___ was admitted to the gynecology service for pain 
control and further evaluation of her abdominal pain. Imaging 
including pelvic ultrasound and CT could not confirm the exact 
location of her remaining essure device however it was seen to 
be located with the proximal end extending into the left uterine 
fundus and there was no sign of perforation or injury adjacent 
to the device. Ms. ___ pain and abdominal exam improved 
over the course of her stay and she was discharged home on HD#2 
with a benign abdominal exam on motrin for pain control with 
instructions to follow up with her primary Ob/gyn, Dr. ___.

Ms. ___ nausea and vomiting was of unclear etiology. It may 
have been due in part to her antibiotics which she was 
prescribed for treatment of UTI. It may have been infectious, 
however, her WBC was normal and she was afebrile without 
diarrhea. Her symptoms did improve with antiemetic treatment as 
well as pepcid. She was discharged home tolerating PO on pepcid 
and declined a prescription for Zofran.

Ms. ___ was being treated for a UTI on admission. She was 
being treated with macrobid which may have been contributing to 
her nausea. She was switched to Bactrim and was discharged with 
a prescription and instructions to finish a three day course of 
treatment as an outpatient.

Ms. ___ has a history of depression and anxiety and was 
continued on her home medications. Of note, Ms. ___ reported 
an extremely stressful social situation at home. She has a ___ 
year old son with ADHD who requires a great deal of attention 
and the patient is separated from his father. 

 
Medications on Admission:
Clonazepam 0.5mg QHS, Seroquel 100mg QHS, Seroquel 25mg QD
prn, Fluoxetine 40 mg QD

 
Discharge Medications:
1. Bactrim DS 800-160 mg Tablet Sig: One (1) Tablet PO twice a 
day for 3 days.
Disp:*6 Tablet(s)* Refills:*0*
2. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.
Disp:*60 Tablet(s)* Refills:*0*
3. quetiapine 100 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime).  
4. fluoxetine 20 mg Capsule Sig: Two (2) Capsule PO DAILY 
(Daily).  
5. clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO QHS (once a 
day (at bedtime)).  
6. quetiapine 25 mg Tablet Sig: One (1) Tablet PO DAILY (Daily) 
as needed for anxiety.  
7. Pepcid 20 mg Tablet Sig: One (1) Tablet PO twice a day.
Disp:*14 Tablet(s)* Refills:*0*
8. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day.
Disp:*60 Capsule(s)* Refills:*2*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-nausea/vomiting 
-UTI
-abdominal pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
*Please take your medication as prescribed - take Bactrim twice 
a day for 3 days to treat your urinary tract infection
*Please call your doctor if you develop increasing pain, 
fever/chills, nausea/vomiting where you are unable to eat or 
drink, heavy vaginal bleeding, lightheadedness/dizziness, or any 
other symptoms that concern you
 
Followup Instructions:
___